US08283353B2
4-(2-hydroxy-2-methylpropoxy)-4-methylcyclohexanone
A mixture of 2-methyl-1-[(8-methyl-1,4-dioxaspiro[4.5]dec-8-yl)oxy]propan-2-ol (1.81 g), 3N hydrochloric acid (20 mL) and acetone (20 mL) was stirred at room temperature for 18 hr. The reaction mixture was diluted with water, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel chromatography [eluent: hexane/ethyl acetate=80/20→65/35 (volume ratio)] to give the title compound as a colorless oil (1.05 g, 71%).

reactant | 2-methyl-1-[(8-methyl-1,4-dioxaspiro[4.5]dec-8-yl)oxy]propan-2-ol | 1.81 g | CC(COC1(CCC2(OCCO2)CC1)C)(C)O | C13H24O4
reactant | hydrochloric acid | 3N, 20 mL | Cl | ClH
reactant | acetone | 20 mL | CC(=O)C | C3H6O
solvent | water | O | H2O
product | 4-(2-hydroxy-2-methylpropoxy)-4-methylcyclohexanone | 1.05 g, 71% | OC(COC1(CCC(CC1)=O)C)(C)C | C11H20O3
